US08748613B2
2-Chloro-1-(thiophen-2-yl)ethanone (30.6 mg, 0.19 mmol) was added to a solution of (R)-quinuclidin-3-yl 2-(4-fluorophenyl)-2-(piperidin-1-yl)acetate (60 mg, 0.17 mmol) in EtOAc (3 ml). The reaction was stirred at room temperature for 16 hours. Et2O was added the precipitate was collected by filtration and purified by flash chromatography (DCM/MeOH/NH4OH=97/3/0.3) to obtain (3R)-3-(2-(4-fluorophenyl)-2-(piperidin-1-yl)acetoxy)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride (23 mg, 26.2% yield) as a white solid.

reactant | 2-Chloro-1-(thiophen-2-yl)ethanone | 0.19 mmol, 30.6 mg | ClCC(=O)C=1SC=CC1 | C6H5ClOS
reactant | (R)-quinuclidin-3-yl 2-(4-fluorophenyl)-2-(piperidin-1-yl)acetate | 0.17 mmol, 60 mg | FC1=CC=C(C=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2CCCCC2 | C20H27FN2O2
reactant | Et2O | CCOCC | C4H10O
solvent | EtOAc | 3 ml | CCOC(=O)C | C4H8O2
product | (3R)-3-(2-(4-fluorophenyl)-2-(piperidin-1-yl)acetoxy)-1-(2-oxo-2-(thiophen-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane chloride | 23 mg, 26.2% yield | [Cl-].FC1=CC=C(C=C1)C(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(C=2SC=CC2)=O)N2CCCCC2 | InChI=1S/C26H32FN2O3S.ClH/c27-21-8-6-20(7-9-21)25(28-12-2-1-3-13-28)26(31)32-23-18-29(14-10-19(23)11-15-29)17-22(30)24-5-4-16-33-24;/h4-9,16,19,23,25H,1-3,10-15,17-18H2;1H/q+1;/p-1/t19?,23-,25?,29?;/m0./s1
